US07625908B2
N-{2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}-N-cyclopropylacetamide
The procedure described in Example 5 was repeated using N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(cyclopropylamino)ethoxy]quinazolin-4-amine and acetyl chloride to give the title compound in 38% yield; NMR spectrum (DMSO-d6) 0.76-0.82 (m, 4H), 2.06 (s, 3H), 2.76-2.83 (m, 1H), 3.87 (t, 2H), 4.42 (t, 2H), 5.31 (s, 2H), 7.19 (d, 1H), 7.26 (d, 1H), 7.32-7.40 (m, 2H), 7.56-7.61 (m, 2H), 7.70-7.75 (m, 1H), 7.86-7.92 (m, 1H), 7.94-7.96 (m, 1H), 8.45 (s, 1H), 8.60 (d, 1H), 9.76 (s, 1H); Mass spectrum MH+ 504.

reactant | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(cyclopropylamino)ethoxy]quinazolin-4-amine | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCNC1CC1 | C25H24ClN5O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-{2-[(4-{[3-Chloro-4-(pyridin-2-ylmethoxy)phenyl]amino}quinazolin-5-yl)oxy]ethyl}-N-cyclopropylacetamide | 38% yield | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCN(C(C)=O)C1CC1 | C27H26ClN5O3
